US05576321
Preparation of 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene
A solution of 6-chloro-2-(4-hydroxy-N-t-butoxycarbonylpiperidin-4-yl)benzo[b]thiophene (1.04 g, 2.83 mmol) in methylene chloride (30.0 ml) was treated with 4.36 ml of trifluoroacetic acid and stirred at 23° C. for 4 hours. The reaction was concentrated to a foam under reduced pressure and the residue chromatographed (silica gel, CHCl3 /MeOH 95:5) to give 0.640 g (90%) of a tan powder. FDMS m/e=250 (M+ of free base)

reactant | 6-chloro-2-(4-hydroxy-N-t-butoxycarbonylpiperidin-4-yl)benzo[b]thiophene | 2.83 mmol, 1.04 g | ClC=1C=CC2=C(SC(=C2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)C1 | C18H22ClNO3S
reactant | trifluoroacetic acid | 4.36 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30.0 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene | 0.640 g, 90% | ClC=1C=CC2=C(SC(=C2)C=2CCNCC2)C1 | C13H12ClNS
